US04029787
3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-n-butylester
40 Grams of 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride (0.1 mole) were heated under reflux for 2 hours with 0.4 l of n-butanol. Subsequently the n-butanol was eliminated in vacuo, the residue was dissolved in 0.5 l of water, and the pH value of the filtered solution was adjusted to 8.5 by means of 2N ammonia. The crystalline precipitate was suction-filtered, washed with water, then dried in vacuo at 40° C. and finally dissolved and reprecipitated from a mixture of acetic ester and diisopropylether.

reactant | 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride | 0.1 mole | Cl.CN(S(=O)(=O)C=1C=C(C(=O)Cl)C=CC1N1CCN(CC1)C)C
reactant | n-butanol | 0.4 l | C(CCC)O | C4H10O
reactant | ammonia | 2N | N | H3N
solvent | water | 0.5 l | O | H2O
product | 3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-n-butylester | C(CCC)OC(C1=CC(=C(C=C1)N1CCN(CC1)C)S(N(C)C)(=O)=O)=O | C18H29N3O4S
